US07393836B2
1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-ethynyl-benzyl)-benzene
Under argon, 25 mg copper iodide, 44 mg bis-(triphenylphosphine)-palladium dichloride, 0.30 ml triethylamine and finally 0.14 ml trimethylsilylacetylene are added to a solution of 0.32 g 1-chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(trifluoromethylsulphonyloxy)-benzyl]-benzene in 3 ml of dimethylformamide. The flask is tightly sealed and the mixture is stirred for 8 h at 90° C. Then another 25 mg bis-(triphenylphosphine)-palladium dichloride and 0.1 ml trimethylsilylacetylene are added, and the solution is stirred for a further 10 h at 90° C. Then aqueous sodium hydrogen carbonate solution is added, the mixture is extracted three times with ethyl acetate, and the collected organic phases are dried over sodium sulphate. After the solvent has been eliminated the residue is dissolved in 5 ml of methanol and combined with 0.12 g potassium carbonate. The mixture is stirred for 1 h at ambient temperature and then neutralised with 1 M hydrochloric acid. Then the methanol is evaporated off, the residue is combined with aqueous sodium chloride solution and extracted with ethyl acetate. The organic extracts collected are dried over sodium sulphate, and the solvent is removed. The residue is chromatographed on silica gel (dichloromethane/methanol 1:0->5:1).

reactant | triethylamine | 0.30 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 0.14 ml | C[Si](C)(C)C#C | C5H10Si
reactant | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(trifluoromethylsulphonyloxy)-benzyl]-benzene | 0.32 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C20H20ClF3O9S
reactant | trimethylsilylacetylene | 0.1 ml | C[Si](C)(C)C#C | C5H10Si
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
catalyst | copper iodide | 25 mg | [Cu](I)I
catalyst | bis-(triphenylphosphine)-palladium dichloride | 44 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis-(triphenylphosphine)-palladium dichloride | 25 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-ethynyl-benzyl)-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)C#C | C21H21ClO6
